US07393865B2
To a cooled (0° C.) solution of 2-(6-methyl-benzo[b]thiophen-2-yl)-ethanol (3.22 g, 16.8) mmol) in dichloromethane (100 mL), methanesulfonylchloride (1.56 mL, 20.1 mmol) and DIEA (5.96 mL, 33.5 mmol) were added. The mixture was stirred for 15 min at 0° C. and then allowed to reach room temperature and stirred for an additional 2.5 hrs. It was washed with sat. NaHCO3 (2×) and brine (1×), dried (Na2SO4), filtered and concentrated in vacuo. Methanesulfonic acid 2-(6-methyl-benzo[b]thiophen-2-yl)-ethyl ester was obtained as a solid and used without further purification.

reactant | 2-(6-methyl-benzo[b]thiophen-2-yl)-ethanol | 3.22 g | CC=1C=CC2=C(SC(=C2)CCO)C1 | C11H12OS
reactant | methanesulfonylchloride | 20.1 mmol, 1.56 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIEA | 33.5 mmol, 5.96 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 2-(6-methyl-benzo[b]thiophen-2-yl)-ethyl ester | CC=1C=CC2=C(SC(=C2)CCOS(=O)(=O)C)C1 | C12H14O3S2
